US04352913
(CH3)2N(CH2)3OCOCH3
14.4 g of 3-dimethylamino-1-propanol and 14.3 g of acetic anhydride are reacted and worked up as described in Example 7. Yield: 14.9 g (73.1%) of analytically pure product (analysis by gas chromatography) with a boiling point of 53° C./12 torr.

reactant | 3-dimethylamino-1-propanol | 14.4 g | CN(CCCO)C | C5H13NO
reactant | acetic anhydride | 14.3 g | C(C)(=O)OC(C)=O | C4H6O3
product | (CH3)2N(CH2)3OCOCH3 | N(C)(C)CCCOC(=O)C | C7H15NO2
